US08097610B2
Preparation of [3-[[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-(2-nitrobenzensulphonyl)amino]methyl]phenyl]acetic acid methyl ester
N-[1(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-2-nitrobenzenesulfonamide (500 mg) was dissolved in dimethylformamide (5 mL). Sodium hydride (60%, oil, 50 mg) was added thereto and the mixture was stirred at room temperature for 1 hour. (3-bromomethylphenyl)acetic acid methyl ester (305 mg) was added thereto and the mixture was stirred for 16 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (412 mg). Yield: 60%.

reactant | N-[1(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-2-nitrobenzenesulfonamide | 500 mg | ClC1=CC2=C(N=C(S2)N2CC(CC2)NS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C17H15ClN4O4S2
reactant | Sodium hydride | 50 mg | [H-].[Na+]
reactant | (3-bromomethylphenyl)acetic acid methyl ester | 305 mg | COC(CC1=CC(=CC=C1)CBr)=O | C10H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | [3-[[[1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-(2-nitrobenzensulphonyl)amino]methyl]phenyl]acetic acid methyl ester | 412 mg, Yield: 60% | COC(CC1=CC(=CC=C1)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C27H25ClN4O6S2
